US06727264B1
N-(3-{1-[3-(PHENYLSULFANYL)PROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure G and Scheme B1 using [(3-chloropropyl)sulfanyl]benzene and N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 382.9 (M+H)+.

reactant | [(3-chloropropyl)sulfanyl]benzene | ClCCCSC1=CC=CC=C1 | C9H11ClS
reactant | N-[3-(4-piperidinyl)phenyl]propanamide | N1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O | C14H20N2O
product | N-(3-{1-[3-(PHENYLSULFANYL)PROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | C1(=CC=CC=C1)SCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O | C23H30N2OS
